US06828320B2
(4-Benzyloxy-phenyl)-(6-(5-(pyridin-3-ylaminomethyl)-furan-2-yl)quinazolin-4-yl)-amine
5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde and 3-aminopyridine were reacted in an analogous manner to Example 10 to give the title compound; δH [2H6]-DMSO 9.82 (1H, b), 8.70 (1H, s), 8.42 (1H, s), 8.11-8.01 (2H, m), 7.80-7.70 (2H, m), 7.62 (2H, d), 7.49-7.25 (5H, m), 7.10-6.95 (5H, m), 6.48 (1H, d), 6.40 (1H, t), 5.10 (2H, s), 4.38 (2H, d); m/z 500 (M+1)+.

reactant | 5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)C=O | C26H19N3O3
reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
product | (4-Benzyloxy-phenyl)-(6-(5-(pyridin-3-ylaminomethyl)-furan-2-yl)quinazolin-4-yl)-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1OC(=CC1)CNC=1C=NC=CC1 | C31H25N5O2
